US05312815
In 580 ml of pyridine was dissolved 70.0 g (0.19 mol) of (+)-2-(2,4-difluorophenyl)-3-((4-methoxy-phenyl)methylthio)-3-methylbutane-1,2-diol, and 25.2 g (0.22 mol) of methanesulfonyl chloride was added dropwise thereto with stirring under ice-cooling. After being stirred for 3 hours, a solution of 32.0 g (0.57 mol) of potassium hydroxide in a mixed solvent of 340 ml of methanol and 340 ml of water was added dropwise to the mixture. After being warmed to room temperature, the mixture was stirred for 12 hours. The mixture was then acidified by slow addition of 850 ml of 4N hydrochloric acid with stirring under ice-cooling, followed by extraction with diethyl ether. The organic layer was washed successively with IN hydrochloric acid, a saturated sodium hydrogencarbonate aqueous solution, and a saturated sodium chloride aqueous solution, and dried. The solvent was removed by distillation under reduced pressure, and the residue was purified by column chromatography using a mixed solvent of hexane and ethyl acetate (100:1). The solvent was removed by distillation under reduced pressure, and the residue was recrystallized from a mixed solvent of hexane and diethyl ether to obtain 64.0 g (96%) of (-)-2-(2,4-difluorophenyl)-2-(1-((4-methoxyphenyl)methylthio)-1-methylethyl)oxirane as a colorless crystal.

reactant | (+)-2-(2,4-difluorophenyl)-3-((4-methoxy-phenyl)methylthio)-3-methylbutane-1,2-diol | 0.19 mol, 70.0 g | FC1=C(C=CC(=C1)F)C(CO)(C(C)(C)SCC1=CC=C(C=C1)OC)O | C19H22F2O3S
reactant | methanesulfonyl chloride | 0.22 mol, 25.2 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium hydroxide | 0.57 mol, 32.0 g | [OH-].[K+]
reactant | hydrochloric acid | 4N, 850 ml | Cl | ClH
solvent | pyridine | 580 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 340 ml | O | H2O
solvent | methanol | 340 ml | CO | CH4O
product | (-)-2-(2,4-difluorophenyl)-2-(1-((4-methoxyphenyl)methylthio)-1-methylethyl)oxirane | 64.0 g, 96% | FC1=C(C=CC(=C1)F)C1(OC1)C(C)(C)SCC1=CC=C(C=C1)OC | C19H20F2O2S
